US07365068B2
NaH (0.7 g, 17.5 mmol) is added to a solution of 1-pentanol (5 ml) in dry THF (25 ml). After stirring at room temperature for 30 min, 3.50 g (16.7 mmole) of 1-fluoro-4-nitro-2-trifluoromethylbenzene is added, and stirring is continued at room temperature overnight. The reaction is quenched with water and extracted with ethylacetate, dried over sodium sulfate and evaporated to dryness. The residue is purified by chromatography on silica gel, eluted with 33% dichloromethane/hexane. Removal of solvent provides 4-nitro-1-pentyloxy-2-trifluoromethyl-benzene as pale yellow oil.

reactant | NaH | 17.5 mmol, 0.7 g | [H-].[Na+]
reactant | 1-pentanol | 5 ml | C(CCCC)O | C5H12O
reactant | 1-fluoro-4-nitro-2-trifluoromethylbenzene | 16.7 mmole, 3.50 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3F4NO2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 4-nitro-1-pentyloxy-2-trifluoromethyl-benzene | [N+](=O)([O-])C1=CC(=C(C=C1)OCCCCC)C(F)(F)F | C12H14F3NO3
